US04161538
Ethyl 2-(4-Iodomethylphenyl)propionate
After a solution of 15 g of sodium iodide in 140 ml of methyl ethyl ketone was refluxed for 1 hour, 12.5 g of ethyl 2-(4-chloromethylphenyl)propionate was added and refluxing was continued for further 8 hours. After the reaction was completed, methyl ethyl ketone was removed by distillation from the reaction mixture under reduced pressure, the residue was poured into ice-water and extracted with ether. The extract was washed with water and an aqueous sodium thiosulfate solution, successively, dried, and the solvent was evaporated to give 16.3 g of the desired compound as an oily and slightly yellow substance.

reactant | sodium iodide | 15 g | [I-].[Na+]
reactant | ethyl 2-(4-chloromethylphenyl)propionate | 12.5 g | ClCC1=CC=C(C=C1)C(C(=O)OCC)C | C12H15ClO2
solvent | methyl ethyl ketone | 140 ml | C(C)C(=O)C | C4H8O
product | Ethyl 2-(4-Iodomethylphenyl)propionate | 16.3 g | ICC1=CC=C(C=C1)C(C(=O)OCC)C | C12H15IO2
